US05264510
Ethyl Vinyl Ether/Acrylic Acid/Maleic Anhydride Terpolymer
A solution of 2.25 grams methyl 3-mercaptopropionate diluted to 4.7 grams with MEK was added via a syringe pump over two hours.

reactant | methyl 3-mercaptopropionate | 2.25 grams | SCCC(=O)OC | C4H8O2S
reactant | MEK | CCC(=O)C | C4H8O
product | Ethyl Vinyl Ether Acrylic Acid Maleic Anhydride | C(=C)OCC.C(C=C)(=O)O.C1(\C=C/C(=O)O1)=O | InChI=1S/C4H2O3.C4H8O.C3H4O2/c5-3-1-2-4(6)7-3;1-3-5-4-2;1-2-3(4)5/h1-2H;3H,1,4H2,2H3;2H,1H2,(H,4,5)
